US07772238B2
To 5-amino-benzo[b]thiophene-2-carboxylic acid ethyl ester (18.37 g, 83.02 mmol) was added an aqueous HCl solution (21 mL conc. HCl in 200 mL H2O, 252 mmol)) and the resulting mixture was cooled to 0° C. A solution of NaNO2 (6.02 g in 60 mL H2O, 87.25 mmol) was added and the mixture was allowed to stir at 0° C. for 10 min. A solution of NaI (13.07 g in 60 μL H2O, 87.20 mmol) was added slowly. The reaction mixture became difficult to stir during the addition of NaI. A total of 300 mL of water was added in several portions. After the addition was complete, the reaction was warmed to rt and allowed to stir at rt for 2 h. The mixture was then diluted with CH2Cl2 (800 mL) and water (100 mL). The organic layer was separated, washed with 200 mL of saturated NaHCO3 and dried over Na2SO4. After filtration, the filtrate was concentrated and the residue was filtered through a pad of silica gel, washing with EtOAc/hexanes (0% to 10%). The filtrate was then concentrated and the residue was recrystallized from MeOH to give 5-iodo-benzo[b]thiophene-2-carboxylic acid ethyl ester as light orange solid. MS (EI): cal'd 332.9 (MH+), exp 333.1 (M+).

reactant | 5-amino-benzo[b]thiophene-2-carboxylic acid ethyl ester | 83.02 mmol, 18.37 g | C(C)OC(=O)C1=CC2=C(S1)C=CC(=C2)N | C11H11NO2S
reactant | HCl | 252 mmol, 21 mL | Cl | ClH
reactant | NaNO2 | 87.25 mmol, 60 mL, 6.02 g | N(=O)[O-].[Na+]
reactant | NaI | 87.20 mmol, 60 μL, 13.07 g | [Na+].[I-]
solvent | CH2Cl2 | 800 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
solvent | water | 300 mL | O | H2O
product | 5-iodo-benzo[b]thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(S1)C=CC(=C2)I | C11H9IO2S
